* Z:\home\viper\Rian\Company\ECG\Simulacao\Circuito.asc
* Generated by LTspice 26.1.1 for Windows.
X§U1 V1 0 VDD VEE Vout 0 N001 N002 INA122 ;§pnba INP)INN)VDD)VEE)OUT)REF)RG1)RG2
V1 V1 0 SINE(0 5m 50)
VDD VDD 0 12
R1 N001 N002 200
VDD1 0 VEE 12
.tran 0 30m 0 10u startup
.include INA122.lib
.options noopiter method=gear
.backanno
.end
