* C:\Users\henri\OneDrive\UFMG\8periodo\InstrumentacaoBiomedica\ProjetoFinal\ECG\Circuito.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 V1 0 VDD VEE Vout 0 N001 N002 INA122
V1 V1 0 SINE(5m 5m 50)
VDD VDD 0 12
R1 N001 N002 200
VDD1 0 VEE 12
.tran 30m
.lib C:\Users\henri\OneDrive\UFMG\8periodo\InstrumentacaoBiomedica\ProjetoFinal\ECG\INA122.LIB
.backanno
.end
